US04610983
In 200 ml of methanol was dissolved 14.6 g of the DL-N5 -(3-acetoxypropyl)-2-(benzyloxycarbonylamino)-N1 -n-propylpentane-1,5-diamide, and thereto were added 1.5 g of 5% palladium-carbon and 8 ml of conc. hydrochloric acid, after which the resulting mixture was subjected to catalytic reduction at room temperature. Subsequently, the palladium-carbon was removed by filtration and the solvent was removed by distillation under reduced pressure to obtain oily DL-N5 -(3-acetoxypropyl)-2-amino-N1 -n-propylpentane-1,5-diamide hydrochloride. This product was dissolved in 50 ml of methylene chloride, and the resulting solution was added dropwise at -20° C. to -10° C. to the mixed acid anhydride in methylene chloride separately prepared in the same manner as in Example 8-(2) from 4.3 g of β-(2-furyl)acrylic acid, 10 ml of triethylamine and 3.7 g of ethyl chlorocarbonate, after which the resulting mixture was stirred at the same temperature for 30 minutes. Subsequently, the mixture was further stirred at room temperature for 30 minutes, and washed successively with 50 ml of diluted hydrochloric acid, 50 ml of a saturated aqueous sodium hydrogencarbonate solution and 50 ml of water, and thereafter dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure to obtain 4.2 g (yield 24%) of DL-N5 -(3-acetoxypropyl)-2-[β-(2-furyl)acrylamido]-N1 -n-propylpentane-1,5-diamide having a melting point of 154°-156° C.

reactant | hydrochloric acid | 8 ml | Cl | ClH
reactant | N5 -(3-acetoxypropyl)-2-(benzyloxycarbonylamino)-N1 -n-propylpentane-1,5-diamide | C(C)(=O)OCCCNC(CCC(C(=O)NCCC)NC(=O)OCC1=CC=CC=C1)=O | C21H31N3O6
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium-carbon | 1.5 g | [C].[Pd]
product | N5 -(3-acetoxypropyl)-2-amino-N1 -n-propylpentane-1,5-diamide hydrochloride | Cl.C(C)(=O)OCCCNC(CCC(C(=O)NCCC)N)=O | InChI=1S/C13H25N3O4.ClH/c1-3-7-16-13(19)11(14)5-6-12(18)15-8-4-9-20-10(2)17;/h11H,3-9,14H2,1-2H3,(H,15,18)(H,16,19);1H
